US06583156B1
2,8-Bis(trifluoromethyl)-4-bromo-3-methylquinoline
A solution of 2,8-bis(trifluoromethyl)-3-methyl-4-quinolinol (5.9 g, 20 mmol) in toluene (20 mL) was treated with POBr3 (6.0 g, 21 mmol), heated to reflux for 30 min, cooled in ice, quenched with water and extracted with EtOAc (2×50 mL). The combined extracts were dried (MgSO4), concentrated in vacuo and the resulting brown solid purified by flash chromatography [SiO2; heptane] to give the product (5.8 g, 81%) as a white crystalline solid: mp 81.9-82.3° C.; IR νmax (Nujol)/cm−1 2955, 2924, 2854, 1574, 1465, 1364, 1299, 1281, 1213, 1189, 1141; NMR δH (400 MHz, CDCl3) 2.77 (3H, s), 7.78 (1H, t, J 8.1 Hz), 8.14 (1H, d, 7.4 Hz), 8.49 (1H, d, J 8.5 Hz).

reactant | 2,8-bis(trifluoromethyl)-3-methyl-4-quinolinol | 20 mmol, 5.9 g | FC(C1=NC2=C(C=CC=C2C(=C1C)O)C(F)(F)F)(F)F | C12H7F6NO
reactant | POBr3 | 21 mmol, 6.0 g | P(=O)(Br)(Br)Br | Br3OP
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 2,8-Bis(trifluoromethyl)-4-bromo-3-methylquinoline | 5.8 g, 81% | FC(C1=NC2=C(C=CC=C2C(=C1C)Br)C(F)(F)F)(F)F | C12H6BrF6N
